US07553969B1
(2) Synthesis of Tyr(3-F)-N-Me-Val-N-Me-Tyr(3-tBu)-NH2
To a solution of Boc-Tyr(3-F)-N-Me-Val-N-Me-Tyr(3-tBu)-NH2 (0.19 g, 0.294 mmol) in methylene chloride (3 ml), TFA (1.5 ml) was added and stirred for 15 min. The reaction mixture was concentrated under reduced pressure, mixed with a saturated aqueous NaHCO3 solution, and extracted with chloroform. The organic layer was dried over anhydrous magnesium sulfate. The resultant was evaporated to remove the solvent under reduced pressure, giving the titled compound (136 mg, 85%).

reactant | Boc-Tyr(3-F)-N-Me-Val-N-Me-Tyr(3-tBu)-NH2 | 0.294 mmol, 0.19 g | N([C@@H](CC1=CC(=C(C=C1)O)F)C(=O)N([C@@H](C(C)C)C(=O)N([C@@H](CC1=CC(=C(C=C1)O)C(C)(C)C)C(=O)N)C)C)C(=O)OC(C)(C)C | C34H49FN4O7
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
solvent | TFA | 1.5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | Tyr(3-F)-N-Me-Val-N-Me-Tyr(3-tBu)-NH2 | 136 mg, 85% | N[C@@H](CC1=CC(=C(C=C1)O)F)C(=O)N([C@@H](C(C)C)C(=O)N([C@@H](CC1=CC(=C(C=C1)O)C(C)(C)C)C(=O)N)C)C | C29H41FN4O5
